US06627629B2
Part A. Preparation of (3S,4S)-3-[(S)-3-(4-fluorobenzyl)-piperidin-1-ylmethyl]-4-[(R)-1-phenyl-ethylamino]-pyrrolidine-1-carboxylic acid tert-butyl ester
(3R,4S)-3-[(S)-3-(4-fluorobenzyl)-piperidine-1-carbonyl]-4-[(R)-1-phenyl-ethylamino]-pyrrolidine-1-carboxylic acid tert-butyl ester (150 mg, 294 μmol) ) was treated with borane-tetrahydrofuran complex in tetrahydrofuran (1.0 M; 11.64 mL, 11.64 mmol) and stirred for 20 h . The mixture was treated slowly with 20% acetic acid in methanol (20 mL), and the resulting mixture was stirred at room temperature for 36 h . The solvents were removed, and the residue was dissolved in water, made basic (pH 11) with 50% sodium hydroxide, and extracted with dichloromethane. The combined organic phases were dried (Na2SO4) and concentrated. The residue was purified by flash column chromatography (60% ethyl acetate/hexane) to provide the product (100 mg, 68%). 1H NMR (300 mHz, CD3OD) δ7.31-7.00 (9H), 3.78 (m, 1H), 3.42 (m, 1H), 3.22-1.62 (18H), 1.39 (d, 3H), 1.34 (s, 9H); mass spec. (ES+) m/z 496.5.

reactant | (3R,4S)-3-[(S)-3-(4-fluorobenzyl)-piperidine-1-carbonyl]-4-[(R)-1-phenyl-ethylamino]-pyrrolidine-1-carboxylic acid tert-butyl ester | 294 μmol, 150 mg | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)N[C@H](C)C1=CC=CC=C1)C(=O)N1C[C@@H](CCC1)CC1=CC=C(C=C1)F | C30H40FN3O3
reactant | tetrahydrofuran | 11.64 mmol, 1.0 M, 11.64 mL | O1CCCC1 | C4H8O
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | 20 mL | CO | CH4O
product | (3S,4S)-3-[(S)-3-(4-fluorobenzyl)-piperidin-1-ylmethyl]-4-[(R)-1-phenyl-ethylamino]-pyrrolidine-1-carboxylic acid tert-butyl ester | 100 mg, 68% | C(C)(C)(C)OC(=O)N1C[C@@H]([C@@H](C1)N[C@H](C)C1=CC=CC=C1)CN1C[C@@H](CCC1)CC1=CC=C(C=C1)F | C30H42FN3O2
